US04399163
i. Methyl 5-Dibenzylamino-2,2,4,4-tetramethyl-3-ketovalerate hydrochloride
To a mixture of 86 g. (0.50 mole) methyl 2,2,4-trimethyl-3-ketovalerate, 117 g. (0.64 mole) dibenzylamine hydrochloride and 19.8 g. (0.22 mole) paraformaldehyde is added a solution of 1 ml. of concentrated hydrochloric acid in 150 ml. 95% ethanol and the mixture is heated at reflux for four hours. The mixture is filtered, 500 ml. of hot acetone added to the filtrate and the resulting mixture cooled then refrigerated overnight. The precipitated product is collected by filtration, washed with acetone and dried.

reactant | methyl 2,2,4-trimethyl-3-ketovalerate | 0.50 mole | CC(C(=O)OC)(C(C(C)C)=O)C | C9H16O3
reactant | dibenzylamine hydrochloride | 0.64 mole | Cl.C(C1=CC=CC=C1)NCC1=CC=CC=C1
reactant | paraformaldehyde | 0.22 mole | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | Methyl 5-Dibenzylamino-2,2,4,4-tetramethyl-3-ketovalerate hydrochloride | Cl.C(C1=CC=CC=C1)N(CC(C(C(C(=O)OC)(C)C)=O)(C)C)CC1=CC=CC=C1 | InChI=1S/C24H31NO3.ClH/c1-23(2,21(26)24(3,4)22(27)28-5)18-25(16-19-12-8-6-9-13-19)17-20-14-10-7-11-15-20;/h6-15H,16-18H2,1-5H3;1H
